US06982348B2
To a solution of ethyl 3-(4-fluorophenyl)-3-oxopropionate (8.9 g, 42.3 mmol) in 1,2-dimethoxyethane (50 ml) was added sodium hydride (60% in oil, 1.69 g, 42.3 mmol) under ice-cooling and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-fluoro-4-(trifluoromethyl)benzyl bromide (9.0 g, 42.3 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was stirred at room temperature for 3 hrs. The reaction solution was poured into water (200 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1-toluene) and recrystallized from diisopropyl ether-hexane to give ethyl 3-(4-fluorophenyl)-2-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-3-oxopropionate (10.8 g, 66%).

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 42.3 mmol, 8.9 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | sodium hydride | 42.3 mmol, 1.69 g | [H-].[Na+]
reactant | 3-fluoro-4-(trifluoromethyl)benzyl bromide | 42.3 mmol, 9.0 g | FC=1C=C(CBr)C=CC1C(F)(F)F | C8H5BrF4
reactant | water | 200 ml | O | H2O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(4-fluorophenyl)-2-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-3-oxopropionate | 10.8 g, 66% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=C(C=C1)C(F)(F)F)F)=O | C19H15F5O3
